US06583126B2
Step 2 methyl 4-[1-{4-[2-(tert-butoxy)-1,1-difluoro-2-oxoethoxy]benzyl}-1-{4-[[di(tert-butoxy)phosphoryl](difluoro)methyl]benzyl}-2-(4-fluorophenyl)-2-oxoethyl]benzoate
To a solution of methyl 4-[1-{4-[2-(tert-butoxy)-1,1-difluoro-2-oxoethoxy]benzyl}-2-(4-fluorophenyl)-2-oxoethyl]benzoate (0.176 g, 0.333 mmol)) in degassed THF (1.7 ml), were added at −20° C. 18-crown-6 (0.15 g) and potassium tert-butoxide 1 M in THE (0.379 ml ). Di(tert-butyl) [4-(bromomethyl)phenyl](difluoro)methylphosphonate (0.156 g, 0.378 mmol) was then added and the reaction mixture was allowed to warm to room temperature. The reaction was quenched with saturated ammonium acetate solution and extracted with ethyl acetate. The organic phase was dried over sodium sulfate, filtered and evaporated to dryness. The residue was purified by flash chromatography using hexane/ethyl acetate 20% giving 0.140 g of the title compound.

reactant | methyl 4-[1-{4-[2-(tert-butoxy)-1,1-difluoro-2-oxoethoxy]benzyl}-2-(4-fluorophenyl)-2-oxoethyl]benzoate | 0.333 mmol, 0.176 g | C(C)(C)(C)OC(C(OC1=CC=C(CC(C(=O)C2=CC=C(C=C2)F)C2=CC=C(C(=O)OC)C=C2)C=C1)(F)F)=O | C29H27F3O6
reactant | 18-crown-6 | 0.15 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium tert-butoxide | 1 M | CC(C)([O-])C.[K+]
reactant | Di(tert-butyl) [4-(bromomethyl)phenyl](difluoro)methylphosphonate | 0.378 mmol, 0.156 g | BrCC1=CC=C(C=C1)C(F)(F)P(OC(C)(C)C)(OC(C)(C)C)=O | C16H24BrF2O3P
solvent | THF | 1.7 ml | C1CCOC1 | C4H8O
product | methyl 4-[1-{4-[2-(tert-butoxy)-1,1-difluoro-2-oxoethoxy]benzyl}-1-{4-[[di(tert-butoxy)phosphoryl](difluoro)methyl]benzyl}-2-(4-fluorophenyl)-2-oxoethyl]benzoate | 0.140 g | C(C)(C)(C)OC(C(OC1=CC=C(CC(C(=O)C2=CC=C(C=C2)F)(CC2=CC=C(C=C2)C(F)(F)P(=O)(OC(C)(C)C)OC(C)(C)C)C2=CC=C(C(=O)OC)C=C2)C=C1)(F)F)=O | C45H50F5O9P
